US08981085B2
5-Chloro-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (1.00 g, 4.6 mmol) and platinum-0.5% Fe (0.452 g, 0.06 mmol) were suspended in THF (12.4 mL) with IPA (6.2 mL). The mixture was hydrogenated at 20 psi for 20 hours, and then the catalyst was removed by filtration. The filtrate was concentrated to dryness, and 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (923 mg, 107% yield) was isolated as a solid.

reactant | 5-Chloro-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 4.6 mmol, 1.00 g | ClC=1C(=C2C(=NC1)NC=C2[N+](=O)[O-])F | C7H3ClFN3O2
reactant | IPA | 6.2 mL | CC(C)O | C3H8O
solvent | THF | 12.4 mL | C1CCOC1 | C4H8O
catalyst | platinum | 0.06 mmol, 0.452 g | [Pt] | Pt
product | 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 923 mg, 107% yield | ClC=1C(=C2C(=NC1)NC=C2N)F | C7H5ClFN3
